US04220644
7-Amino-3-(1-carboxymethyltetrazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid (1.0 g., 2.68 mmol.) was suspended in 10 ml. of dry dimethylformamide and 1.12 ml of triethylamine was added followed by 85 drops of formamide. A solution of 0.91 g. (2.68 mmol.) of the activated ester of α-t-butoxycarbonylthienylacetamide, prepared as described above, in 2 ml. of dimethylformamide was added and the reaction mixture was stirred at 25° for three hours. An additional 0.45 g. of activated ester was then added and the mixture stirred another five hours. Ether (ca. 300 ml.) was added and the solution was decanted. The remaining oily material was washed with ether, dissolved in water and the aqueous solution was extracted with ethyl acetate. The pH of the ethyl acetate solution was adjusted to 1.5 by addition of dilute hydrochloric acid. Extraction with ethyl acetate and evaporation of the solvent gave 7-(α-t-butoxycarbonylthienylacetamido)-3-(1-carboxymethyltetrazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid.

reactant | 7-Amino-3-(1-carboxymethyltetrazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid | 2.68 mmol, 1.0 g | NC1[C@@H]2N(C(=C(CS2)C(CC(=O)O)SC2=NN=NN2)C(=O)O)C1=O | C11H12N6O5S2
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | triethylamine | 1.12 ml | C(C)N(CC)CC | C6H15N
reactant | α-t-butoxycarbonylthienylacetamide | C(C)(C)(C)OC(=O)C(C(=O)N)C=1SC=CC1 | C11H15NO3S
catalyst | formamide | 85 drops | C(=O)N | CH3NO
solvent | Ether | ca. 300 ml | CCOCC | C4H10O
product | 7-(α-t-butoxycarbonylthienylacetamido)-3-(1-carboxymethyltetrazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid | C(C)(C)(C)OC(=O)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C(CC(=O)O)SC2=NN=NN2)C(=O)O)C1=O)C=1SC=CC1 | C22H24N6O8S3
